US08026260B2
To a solution of methyl 4-(1,1-difluoro-2-methoxy-2-oxoethyl)benzoate (1.0 g, 4.1 mmol) in THF (20 mL) was added sodium hydroxide (4.1 mmol, 4.1 mL of a 1M solution) dropwise at ambient temperature. The resulting solution was stirred for 16 hours. The reaction was partitioned between 1M HCl and ethyl acetate. The organics were dried over sodium sulfate, filtered and evaporated to give difluoro[4-(methoxycarbonyl)phenyl]acetic acid as a white solid. 1H NMR (CDCl3) δ 8.12 (d, J=8.5 Hz, 2H), 7.71 (d, J=8.21 Hz, 2H), 3.94 (s, 3H), 3.0 (bs, 1H); ESIMS calcd 231.0 (M++H), found 231.0 (M++H).

reactant | methyl 4-(1,1-difluoro-2-methoxy-2-oxoethyl)benzoate | 4.1 mmol, 1.0 g | FC(C(=O)OC)(F)C1=CC=C(C(=O)OC)C=C1 | C11H10F2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | difluoro[4-(methoxycarbonyl)phenyl]acetic acid | FC(C(=O)O)(C1=CC=C(C=C1)C(=O)OC)F | C10H8F2O4
